US06964966B2
Ammonium acetate (2.5 g, 32.46 mmol) was added to the stirred solution of 1-benzyl-3,5-dimethyl-3-ethyl-4-piperidone (3.0 g, 12.25 mmol) in methanol (40 ml) and stirring was continued for 20 hr at ambient temperature. The resulting mixture was cooled at 0° C. and sodium cyanoborohydride (0.8 g, 12.7 mmol) was added to it. Cooling was removed after 10 min. and resulting mixture was stirred for 20 hr at ambient temperature. The reaction mixture was concentrated to dryness, triturated with water, acidified with conc. HCl (pH 2) and extracted with ethyl acetate to remove impurities. The aqueous layer was basified with 1M sodium hydroxide solution (pH 9) and extracted with ethyl acetate. Ethyl acetate extract was dried (Na2SO4) and concentrated to dryness to furnish 4-amino-1-benzyl-3,5-dimethyl-3-ethylpiperidine.

reactant | Ammonium acetate | 32.46 mmol, 2.5 g | C(C)(=O)[O-].[NH4+]
reactant | 1-benzyl-3,5-dimethyl-3-ethyl-4-piperidone | 12.25 mmol, 3.0 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)=O)(CC)C | C16H23NO
reactant | sodium cyanoborohydride | 12.7 mmol, 0.8 g | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-amino-1-benzyl-3,5-dimethyl-3-ethylpiperidine | NC1C(CN(CC1C)CC1=CC=CC=C1)(CC)C | C16H26N2
